US06716856B1
Preparation of 7-Phenylthio-1-(2-pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole.
The solution of 7-bromo-1-(2-pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole (0.6 g, 1.8 mmol), prepared as described in example 4, and sodium thiophenate (0.3 g, 2.24 mmol) in dry N,N-dimethylformamide (10 ml) was stirred at room temperature for about 5 hours and then poured into brine and extracted with dichloromethane. The combined organic layers were washed with brine, dried over sodium sulfate end evaporated. The residue was chromatographed on silica gel (cyclohexane:ethyl acetate=90:10) to give 0.3 g (45% yield) of the title compound as a colourless solid which crystallized on standing.

reactant | 7-bromo-1-(2-pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole | 1.8 mmol, 0.6 g | BrC1C(CC(C=2C(=NN(C12)C1=NC=CC=C1)C)=O)(C)C | C15H16BrN3O
reactant | sodium thiophenate | 2.24 mmol, 0.3 g | S1C(=CC=C1)C(=O)[O-].[Na+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 7-Phenylthio-1-(2-pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole | 0.3 g, 45% yield | C1(=CC=CC=C1)SC1C(CC(C=2C(=NN(C12)C1=NC=CC=C1)C)=O)(C)C | C21H21N3OS
